US06548514B1
N-[3-(4-methylpiperazin-1-ylmethyl)phenyl]-2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)benzamide
Using an analogous procedure to that described in Example 4, 3-(4-methylpiperazin-1-ylmethyl)aniline was reacted with 2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)benzoic acid to give the title compound in 32% yleld; NMR Spectrum: (DMSOd6) 2.13 (s, 3H), 2.31-2.35 (m, 8H), 3.42 (s, 2H), 3.49-3.53 (m, 4H), 3.69-3.72 (m, 4H), 7.02 (d, 1H), 7.1 (d, 1H), 7.22-7.3 (m, 2H), 7.57-7.65 (m, 3H), 7.84-7.94 (m, 2H), 8.28 (d, 1H), 10.47 (s, 1H), 10.52 (s, 1H); Mass Spectrum: M+H+ 549 and 551.

reactant | 3-(4-methylpiperazin-1-ylmethyl)aniline | CN1CCN(CC1)CC=1C=C(N)C=CC1 | C12H19N3
reactant | 2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C17H16ClN3O4
product | N-[3-(4-methylpiperazin-1-ylmethyl)phenyl]-2-chloro-5-(2-morpholinopyrid-4-ylcarbonylamino)benzamide | CN1CCN(CC1)CC=1C=C(C=CC1)NC(C1=C(C=CC(=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1)Cl)=O | C29H33ClN6O3
